US07541372B2
{4-[5-(4-Fluoro-2-methoxy-phenyl)-[1,3,4]oxadiazol-2-yl]-3-phenyl-isoxazol-5-ylmethyl}-methyl-amine
To a solution of 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole (241 mg, 0.69 mmol) in carbon tetrachloride (2 mL) was added N-bromosuccinimide (122 mg, 0.69 mmol) and 2,2′-azobis(2-methylpropionitrile) (11 mg, 0.07 mmol) and the reaction mixture was stirred for 18 h at 70° C. It was diluted with dichloromethane (10 mL) and washed with aqueous sodium hydrogencarbonate (1 N, 10 mL). The aqueous phase was extracted with dichloromethane and dried over sodium sulfate. The resulting crude material was suspended in methylamine solution (2 M in THF, 2.0 mL, 4.0 mmol) and potassium carbonate (110 mg, 0.80 mmol)was added. The reaction mixture was stirred for 2 h at 50° C. The mixture was diluted with ethyl acetate (20 ml), washed twice aqueous sodium carbonate (half saturated) and was extracted with ethyl acetate. Drying over sodium sulfate and purification by chromatography (SiO2, heptane:ethyl acetate:dichloromethane:methanol 40:40:20:0 to 0:75:20:5) afforded the tide compound (119 mg, 46%) as a white solid. MS: m/e 381.2 [M+H]+.

reactant | 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 0.69 mmol, 241 mg | FC1=CC(=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC | C19H14FN3O3
reactant | N-bromosuccinimide | 0.69 mmol, 122 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | 0.07 mmol, 11 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | methylamine | 4.0 mmol, 2 M, 2.0 mL | CN | CH5N
reactant | potassium carbonate | 0.80 mmol, 110 mg | C([O-])([O-])=O.[K+].[K+]
solvent | carbon tetrachloride | 2 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | {4-[5-(4-Fluoro-2-methoxy-phenyl)-[1,3,4]oxadiazol-2-yl]-3-phenyl-isoxazol-5-ylmethyl}-methyl-amine | 119 mg, 46% | FC1=CC(=C(C=C1)C1=NN=C(O1)C=1C(=NOC1CNC)C1=CC=CC=C1)OC | C20H17FN4O3
